US07612075B2
B. 7-Chloro-isoquinoline-3-carboxylic acid.
To 4.5 mL of a 1N NaOH solution at 0° C. is added a solution of AgNO3 (0.31 g, 1.8 mmol) in 3 mL of H2O, followed by a solution of of 7-chloro-isoquinoline-3-carbaldehyde (0.25 g, 1.3 mmol) in 3 of EtOH. The solution is stirred at 0° C. for 10 minutes, then at room temp. For 3 hours. The solution is acidified to pH=3 with 1H HCl. The resulting solution is extracted with CHCl3. The organic layer is dried over MgSO4, filtered and concentrated to give the product as a white solid (0.2 g, 0.96 mmol). 1H NMR (CD3OD, 300 MHz) δ9.18 (s, 1H), 8.63 (s, 1H), 8.18 (m, 1H), 7.80 (m, 2H), 6.94 (m, 1H), 4.15 (q, 2H), 3.48 (s, 2H), 1.20 (t, 3H). MS (EI): m/z 208, 210 (M+), Cl pattern.

reactant | NaOH | 1N | [OH-].[Na+]
reactant | 7-chloro-isoquinoline-3-carbaldehyde | 1.3 mmol, 0.25 g | ClC1=CC=C2C=C(N=CC2=C1)C=O | C10H6ClNO
reactant | EtOH | CCO | C2H6O
reactant | HCl | Cl | ClH
solvent | H2O | 3 mL | O | H2O
catalyst | AgNO3 | 1.8 mmol, 0.31 g | [N+](=O)([O-])[O-].[Ag+]
product | 7-Chloro-isoquinoline-3-carboxylic acid | 0.96 mmol, 0.2 g | ClC1=CC=C2C=C(N=CC2=C1)C(=O)O | C10H6ClNO2
